Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
possible distal esophageal obstruction
 
Major Surgical or Invasive Procedure:
EGD with dilation of the pylorus using balloon dilation, 
replacement of empyema tubes

 
History of Present Illness:
___ with ___'s s/p esophageal repair with intercostal 
muscle flap ___, s/p thoracentesis ___, J-tube ___.  Had 
follow up barium swallow which showed no evidence of leak or 
stricture.  However, it was unclear if there was more distal 
obstruction as the barium remained in the distal esophagus.  She 
was therefore brought in to under go EGD with possible 
intervention  

 
Past Medical History:
osteoarthritis, s/p fall with R hip fracture s/p R THR,
large paraesophageal hernia, macular degeneration

PSH: hysterectomy ___ years ago
Esophageal perforation repair with intercostal muscle flap 
(___)
Jtube placement (___)

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Admission:
AVSS
AAO, malnourished
RRR
CTA b/l, no crepitus
soft, NT, ND, Jtube in place
Foley

Discharge:
AVSS
AAO
RRR
CTA b/l
soft, NT, ND, Jtube
Foley
peripheral pulses intact

 
Brief Hospital Course:
patient was admitted to the Thoracic Surgical Service under the 
care of Dr. ___.  She underwent a EGD with balloon 
dilation of the pylorus.  There were no complications.  She had 
a swallowing evaluation post-op.  There recommendations were as 
follows:
1. Continue primary nutrition/hydration via J-tube.

2. Initiate ___ intake of thin liquids and puree as small meals 
or
snacks at this time due to patient weakness and lethargy. 

3. Pills may be crushed with puree of via J-tube. 

4. Patient to take her time with ___ taking small sips and bites.

5. Supervision to assist with ___ only when patient is awake and
alert, seated upright ~90 degrees for ___ intake and for 2 hours
following any ___. 

6. Recommend continued monitoring and repeat swallow evaluation
at rehab prior to advancing ___ diet. 

We therefore continued her tube feeds and allowed her to begin 
___ intake Ad Lib.  Her post procedure Barium Swallow showed no 
evidence of leak or obstruction.  She did have some diarrhea 
initially which cleared up, her white count was normal and there 
was no evidence of C. Diff on her stool culture.  Her previous 
antibiotics were stopped at this time as well.  

At this time it was appropriate to send her back to her rehab 
facility as she no longer required acute care.
 
Medications on Admission:
Protonix, Motrin, calcium  

 
Discharge Medications:
1. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
2. Acetaminophen 160 mg/5 mL Solution Sig: Six Hundred Fifty 
(650) mg ___ Q6H (every 6 hours) as needed for pain.  
3. Prevacid 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___ a day.  
4. Heparin Lock Flush (Porcine) 100 unit/mL Syringe Sig: Two (2) 
ML Intravenous DAILY (Daily) as needed.  
5. Albuterol 90 mcg/Actuation Aerosol Sig: One (1)  Inhalation 
every ___ hours.  
6. Peridex 0.12 % Mouthwash Sig: One (1)  Mucous membrane twice 
a day.  
7. Lopressor 50 mg Tablet Sig: ___ Tablet ___ twice a day.  
8. multivitamin
5cc daily
9. Nystatin 100,000 unit/mL Suspension Sig: Five (5) cc ___ four 
times a day.  
10. Atrovent HFA 17 mcg/Actuation Aerosol Sig: One (1)  
Inhalation every ___ hours.  
11. Sodium Bicarbonate  Oral
12. Desyrel 50 mg Tablet Sig: ___ Tablet ___ at bedtime.  
13. regular insulin
regular insulin per sliding scale

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
paraesophageal hernia, OA s/p R hip surgery 
Esophageal perforation with repair ___

 
Discharge Condition:
good

 
Discharge Instructions:
Call Dr. ___ ___ if you develop chest 
pain, shortness of breath, fever, chills, difficulty swallowing, 
any problem with your chest tubes or any other symptoms that 
concern you.
Changed the dressing on the chest tubes/empyema tubes daily. 
Continue to empty the pneumostats and keep record of the 
drainge.
You may take thin liquids and pureed food by mouth- no soft 
solids. 
Must be OOB for all ___ and remain OOB for 2hrs after eating.
Pills may be crushed and given orally.

 
Followup Instructions:
___